US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N-methyl-1H-imidazole-2-carboxamide
HATU (0.16 g, 0.43 mmol) was added to a solution of 3-chloro-5-({6-chloro-2-fluoro-3-[(methylamino)methyl]phenyl}oxy)benzonitrile (0.10 g, 0.30 mmol) and 1H-imidazole-2-carboxylic acid (0.05 g, 0.43 mmol) in DMF (3 mL) and the solution was stirred at RT overnight. After 16 h, ethyl acetate (100 ml) and saturated NaHCO3 solution (100 ml) were added. The organic layer was separated, washed with saturated NaHCO3 solution (2×100 ml), brine (150 mL), dried over MgSO4, filtered and concentrated. The crude material was purified by Reverse Phase HPLC to give the title compound (0.025 g, 20%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.82 (s, 1H), 7.46-7.57 (m, 3H), 7.27-7.37 (m, 2H), 7.18 (s, 1H), 5.57 (s, 1H), 4.77 (s, 1H), 3.53 (s, 1.5H), 2.98 (s, 1.5H). 19F NMR (376 MHz, DMSO-d6) δ ppm −75.19 (s, 1F). LCMS m/z 418 (M−1).

reactant | HATU | 0.43 mmol, 0.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloro-5-({6-chloro-2-fluoro-3-[(methylamino)methyl]phenyl}oxy)benzonitrile | 0.30 mmol, 0.10 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CNC)F | C15H11Cl2FN2O
reactant | 1H-imidazole-2-carboxylic acid | 0.43 mmol, 0.05 g | N1C(=NC=C1)C(=O)O | C4H4N2O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N-methyl-1H-imidazole-2-carboxamide | 0.025 g, 20% | ClC1=C(C(=C(C=C1)CN(C(=O)C=1NC=CN1)C)F)OC1=CC(=CC(=C1)C#N)Cl | C19H13Cl2FN4O2
